US09079894B2
To 1-(tetrahydro pyran-4-yl) piperidine-4-carboxylic acid (168.2 mg, 0.58 mmol) was added phosphoryl chloride (1.76 mL). The mixture was stirred for 15 minutes and 4-amino-5-chloro-2,3-dihydro benzofuran-7-carboxylic acid hydrazide (101.2 mg, 0.0.44 mmol, obtained in preparation 3) was added. The reaction mixture was gradually heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, triturated with hexanes (2×20 mL) and the crude mass was basified with aqueous sodium bicarbonate solution. The basified mixture was extracted with 10% methanol in dichloromethane. The organic layer was dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure. The residual mass was purified by silica gel column to obtain 5-chloro-7-{5-[1-(tetrahydro pyran-4-yl) piperidin-4-yl]-[1,3,4]oxadiazol-2-yl}-2,3-dihydro benzofuran-4-yl amine (23.5 mg).

reactant | 1-(tetrahydro pyran-4-yl) piperidine-4-carboxylic acid | 0.58 mmol, 168.2 mg | O1CCC(CC1)N1CCC(CC1)C(=O)O | C11H19NO3
reactant | phosphoryl chloride | 1.76 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-amino-5-chloro-2,3-dihydro benzofuran-7-carboxylic acid hydrazide | 101.2 mg | NC1=C(C=C(C2=C1CCO2)C(=O)NN)Cl | C9H10ClN3O2
product | 5-chloro-7-{5-[1-(tetrahydro pyran-4-yl) piperidin-4-yl]-[1,3,4]oxadiazol-2-yl}-2,3-dihydro benzofuran-4-yl amine | 23.5 mg, Yield: 13.1% | ClC=1C=C(C2=C(CCO2)C1N)C=1OC(=NN1)C1CCN(CC1)C1CCOCC1 | C20H25ClN4O3
